US04490369
(a) 1-(6,9-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane
This compound was prepared analogous to Example 1(a) by reacting 6,9-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one (m.p. 188°-191° C.) with 1-bromo-3-chloro-propane.

reactant | 6,9-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | COC1=CC=C(C=2CC(NC=CC21)=O)OC | C12H13NO3
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
product | 1-(6,9-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC=C(C=2CC(N(C=CC21)CCCCl)=O)OC | C15H18ClNO3
